US08754229B2
To a dry 1 liter (L) flask was added methyl 4-amino-6-chloro-5-fluoro-3-iodopicolinate (50 g, 151 mmol) and cesium carbonate (Cs2CO3; 99 g, 303 mmol). CH3OH (378 mL) was added, and the solution was sparged with nitrogen for 10 min. 1,10-Phenanthroline (6.00 g, 30.3 mmol) and copper(I) iodide (CuI; 2.88 g, 15.13 mmol) were added, and the flask was fitted with a reflux condenser and heated to 65° C. under nitrogen. After 12 h, CuI (2.88 g, 15.13 mmol) was again added to the reaction mixture, and heating was continued until consumption of the iodopicolinate was observed. The reaction mixture was cooled to room temperature, filtered through Celite, and concentrated in vacuo. To the crude residue was added EtOAc (100 mL) and H2O (100 mL). The layers were separated, and the aqueous phase was acidified to pH=2 with concentrated (conc) HCl and subsequently extracted with EtOAc (3×100 mL). The organic extracts were combined, washed with satd aq NaCl, dried (Na2SO4), filtered, and concentrated in vacuo to afford 4-amino-6-chloro-5-fluoro-3-methoxypicolinic acid.

reactant | methyl 4-amino-6-chloro-5-fluoro-3-iodopicolinate | 151 mmol, 50 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)I | C7H5ClFIN2O2
reactant | cesium carbonate | 303 mmol, 99 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,10-Phenanthroline | 30.3 mmol, 6.00 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
catalyst | copper(I) iodide | 15.13 mmol, 2.88 g | [Cu]I
catalyst | CuI | 15.13 mmol, 2.88 g | [Cu]I
solvent | CH3OH | 378 mL | CO | CH4O
product | 4-amino-6-chloro-5-fluoro-3-methoxypicolinic acid | NC1=C(C(=NC(=C1F)Cl)C(=O)O)OC | C7H6ClFN2O3
